US04904764
An ice-cold soluton of 2 -methoxy-p-benzoquinone (69 mg, 0.5 mmol) in dichloromethane (2 ml) was added to an ice-cold solution of p-toluenesulfonhydrazide (102 mg, 0.55 mmol) in 2 ml of dichloromethane and the resulting solution was stirred at 0° C. for 1 hour. Additional p-toluenesulfonhydrazide (50 mg, 0.27 mmol) was added to the reaction mixture and the resulting mixture was stirred at 0° C. for two hours. The solvent was then removed under reduced pressure and the residue was chromatographed on a silica gel column (2.5×18 cm) with chloroform:methanol (9:1, v/v). The bioactive fractions were combined and concentrated in vacuo to give 26.7 mg of 4-diazo-3-methoxy-2,5-cyclohexadien-1-one as a yellow solid: UV max in CH3OH (E1 cm1%) 335 (730), 250 (120): 1H NMR in CDCl3 δ: 3.90 (s,3H)., 6.05 (d, 1H, 1.5 Hz), 6.30 (dd, 1H, 9.5, 1.6 Hz), 7.28 (d, 1H, 9.5 Hz); 13C NMR in CDCl3 δ: 56.4, 71.2, 103.8, 122.9, 126.7, 161.5, 182.6; IR in chloroform: 2110, 1635, 1600 cm-1 ; and molecular weight by mass spectrum 150; Rf equals 0.25 in a TLC system on silica gel with chloroform:methanol, 9:1, v/v, as the solvent.

reactant | 2 -methoxy-p-benzoquinone | 0.5 mmol, 69 mg | COC=1C(C=CC(C1)=O)=O | C7H6O3
reactant | p-toluenesulfonhydrazide | 0.55 mmol, 102 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | p-toluenesulfonhydrazide | 0.27 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-diazo-3-methoxy-2,5-cyclohexadien-1-one | 26.7 mg | [N+](=[N-])=C1C(=CC(C=C1)=O)OC | C7H6N2O2
